US04486428
A. dl-5-Benzyloxy-4-cyanomethylene-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran
To a solution of 11.5 g (23.7 mmole) dl-5-benzyloxy-4-cyanomethyl-4-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran in 100 ml dry toluene was added a few grams of molecular sieves and 5 drops of methanesulfonic acid. The mixture was stirred for 16 hours at room temperature, washed with 30 ml water, 2×30 ml saturated sodium bicarbonate solution, dried (MgSO4), filtered and the filtrate evaporated in vacuo to afford a yellow oil. Trituration with ethyl ether, filtration gave 2.60 g colorless solid. Evaporation of the mother liquor to half-volume and addition of petroleum ether afforded a second crop, 3.75 g. Total yield: 6.35 g (60.4%).

reactant | dl-5 benzyloxy-4-cyanomethyl-4-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 23.7 mmole, 11.5 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C1=CC=CC=C1)OC1C(OC2=C(C1(O)CC#N)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | methanesulfonic acid | 5 drops | CS(=O)(=O)O | CH4O3S
product | dl-5 Benzyloxy-4-cyanomethylene-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 2.60 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C1=CC=CC=C1)OC1C(OC2=C(C1=CC#N)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C | InChI=1S/C31H33NO3.C18H34N4O2/c1-23(11-10-16-24-12-6-4-7-13-24)34-26-17-18-27-28(19-20-32)30(31(2,3)35-29(27)21-26)33-22-25-14-8-5-9-15-25;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h4-9,12-15,17-19,21,23,30H,10-11,16,22H2,1-3H3;6-7,14,20-23H,2-5,8-13,15,19H2,1H3
